US07037909B2
To a suspension of 4-amino-2,5-dimethyl-phenol (6.85 g, 50 mmol) in 30 mL of water was added acetic anhydride (5.67 mL, 60 mmol). The mixture was vigorously stirred at 70° C. for 20 min and then cooled down to room temperature. The solid was collected by filtration and washed with water to give N-(4-hydroxy-2,5-dimethyl-phenyl)-acetamide as gray solid (8.1 g, 90%).

reactant | 4-amino-2,5-dimethyl-phenol | 50 mmol, 6.85 g | NC1=CC(=C(C=C1C)O)C | C8H11NO
reactant | acetic anhydride | 60 mmol, 5.67 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 30 mL | O | H2O
product | N-(4-hydroxy-2,5-dimethyl-phenyl)-acetamide | 8.1 g, 90% | OC1=CC(=C(C=C1C)NC(C)=O)C | C10H13NO2
